US06563008B2
1-iodo-4-[[Dimethyl(1,1-dimethylethyl)silyl]oxy]-benzene
387 mg of irdidazole and 411 mg of tertbutyldimethylsilyl chloride is added at ambient temperature and under an inert atmosphere to 500 mg of para-iodo-phenol in 4 ml of dimethylformamide and the mixture is maintained under agitation for 15 hours at ambient temperature then for 1 hour at 40° C. The reaction medium is poured into water, and the aqueous phase is extracted with dichloromethane. The organic phase is then dried and evaporated under reduced pressure. In this way 636 mg of expected product is obtained.

reactant | tertbutyldimethylsilyl chloride | 411 mg | C(C)(C)(C)[Si](C)(C)Cl | C6H15ClSi
reactant | para-iodo-phenol | 500 mg | IC1=CC=C(C=C1)O | C6H5IO
reactant | water | O | H2O
solvent | dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
product | 1-iodo-4-[[Dimethyl(1,1-dimethylethyl)silyl]oxy]-benzene | 636 mg | IC1=CC=C(C=C1)O[Si](C(C)(C)C)(C)C | C12H19IOSi
